US05215983
To a solution of (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl) -2-{4,5,6,7-tetrahydropyrazolo [1,5-a]pyrimidin-4-yl}methylpyrrolidine (2.22 g) in a mixture of methanol (40 ml) and tetrahydrofuran (20 ml) was added 28% sodium methoxide in methanol solution (0.98 ml) under ice-cooling and the mixture was stirred at the same temperature for 15 minutes. To the reaction mixture was added acetic acid (0.29 ml) at the same temperature and the mixture was evaporated in vacuo. The resulting residue was dissolved in a mixture of ethyl acetate (100 ml) and water (30 ml). The organic layer was separated and washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resulting residue was chromatographed on silica gel (150 g) eluting with a mixture of chloroform and methanol (19:1, V/V). The fractions containing the desired compound were collected and concentrated in vacuo to give (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl) -2-{4,5,6,7-tetrahydropyrazolo[ 1,5-a]pyrimidin-4-yl}methylpyrrolidine (1.80 g).

reactant | (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl) -2-{4,5,6,7-tetrahydropyrazolo [1,5-a]pyrimidin-4-yl}methylpyrrolidine | 2.22 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C=2N(CCC1)N=CC2 | C21H25N5O5S
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | 0.29 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 40 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 0.98 ml | CO | CH4O
product | (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl) -2-{4,5,6,7-tetrahydropyrazolo[ 1,5-a]pyrimidin-4-yl}methylpyrrolidine | 1.80 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C=2N(CCC1)N=CC2 | C19H23N5O4S
